US07531561B2
4-Benzyl-2-(4-metoxybenzyl)-[1,2,4]thiadiazolidine-3,5-dione (7)
Reagents: Benzylisothiocyanate (6.5 mmol, 0.85 mL), p-metoxybenzyl-isocyanate (6.5 mmol, 0.92 mL) and SO2Cl2 (6.5 mmol, 0.52 mL) in diethyl ether (25 mL). Isolation: solvent evaporation. Purification: silica gel column chromatography (AcOEt/hexane, 1:4).

reactant | Benzylisothiocyanate | 6.5 mmol, 0.85 mL | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | p-metoxybenzyl-isocyanate | 6.5 mmol, 0.92 mL | COC1=CC=C(CN=C=O)C=C1 | C9H9NO2
reactant | diethyl ether | 25 mL | C(C)OCC | C4H10O
product | 4-Benzyl-2-(4-metoxybenzyl)-[1,2,4]thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)N1C(N(SC1=O)CC1=CC=C(C=C1)OC)=O | C17H16N2O3S
